US09126931B2
4-(6-Methoxy-pyridin-2-yl)-4-methyl-3-oxo-pentanoic acid tert-butyl ester
The title compound was synthesized from 2-(6-methoxy-pyridin-2-yl)-2-methyl-propionic acid and mono-tert-butyl malonic acid according to the method used for the synthesis of Compound PR4. The resultant was used for the next step without further purification.

reactant | 2-(6-methoxy-pyridin-2-yl)-2-methyl-propionic acid | COC1=CC=CC(=N1)C(C(=O)O)(C)C | C10H13NO3
reactant | mono-tert-butyl malonic acid | C(C)(C)(C)C(C(=O)O)C(=O)O | C7H12O4
product | 4-(6-Methoxy-pyridin-2-yl)-4-methyl-3-oxo-pentanoic acid tert-butyl ester | C(C)(C)(C)OC(CC(C(C)(C)C1=NC(=CC=C1)OC)=O)=O | C16H23NO4
